US07825155B2
cis-3-methanesulfonyloxycyclobutane Carboxylic Benzyl Ester
To a solution of cis-3-hydroxycyclobutane carboxylic benzyl ester (see WO03000657A1)(18.0 g, 87.5 mmol) in dichloromethane (155 m/L) was added triethylamine (18.3 mL, 131 mmol), and then thereto was added dropwise a solution of methanesulfonyl chloride (8.16 mL, 105 mmol) in dichloromethane (20 mL) at 0° C. for 15 minutes. The mixture was stirred for 1 hour, and then the reaction solution was washed with aqueous saturated sodium bicarbonate solution, dried over anhydrous magnesium sulfate, filtered, and concentrated to give the titled compound (24.9 g, quant.).

reactant | cis-3-hydroxycyclobutane carboxylic benzyl ester | 87.5 mmol, 18.0 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1C[C@@H](C1)O | C12H14O3
reactant | triethylamine | 131 mmol, 18.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 105 mmol, 8.16 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | cis-3-methanesulfonyloxycyclobutane Carboxylic Benzyl Ester | 24.9 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1C[C@@H](C1)OS(=O)(=O)C | C13H16O5S
